.subckt fdnq_x1 Q CK D VDD VSS
XFDNQ_ck_P0 FDNQ_ck_b CK VDD VDD pmos w=2u l=100n
XFDNQ_ck_N0 FDNQ_ck_b CK VSS VSS nmos w=1u l=100n
XFDNQ_m_in_P FDNQ_m_n1 FDNQ_ck_b D VDD pmos w=2u l=100n
XFDNQ_m_in_N FDNQ_m_n1 CK D VSS nmos w=1u l=100n
XFDNQ_m_i1_P0 FDNQ_m_n2 FDNQ_m_n1 VDD VDD pmos w=2u l=100n
XFDNQ_m_i1_N0 FDNQ_m_n2 FDNQ_m_n1 VSS VSS nmos w=1u l=100n
XFDNQ_m_i2_P0 FDNQ_m_n1 FDNQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNQ_m_i2_N0 FDNQ_m_n1 FDNQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNQ_m_fb_P FDNQ_m_n1 CK FDNQ_m_n2 VDD pmos w=2u l=100n
XFDNQ_m_fb_N FDNQ_m_n1 FDNQ_ck_b FDNQ_m_n2 VSS nmos w=1u l=100n
XFDNQ_m_o_P0 FDNQ_qm FDNQ_m_n2 VDD VDD pmos w=2u l=100n
XFDNQ_m_o_N0 FDNQ_qm FDNQ_m_n2 VSS VSS nmos w=1u l=100n
XFDNQ_s_in_P FDNQ_s_n1 CK FDNQ_qm VDD pmos w=2u l=100n
XFDNQ_s_in_N FDNQ_s_n1 FDNQ_ck_b FDNQ_qm VSS nmos w=1u l=100n
XFDNQ_s_i1_P0 FDNQ_s_n2 FDNQ_s_n1 VDD VDD pmos w=2u l=100n
XFDNQ_s_i1_N0 FDNQ_s_n2 FDNQ_s_n1 VSS VSS nmos w=1u l=100n
XFDNQ_s_i2_P0 FDNQ_s_n1 FDNQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNQ_s_i2_N0 FDNQ_s_n1 FDNQ_s_n2 VSS VSS nmos w=1u l=100n
XFDNQ_s_fb_P FDNQ_s_n1 FDNQ_ck_b FDNQ_s_n2 VDD pmos w=2u l=100n
XFDNQ_s_fb_N FDNQ_s_n1 CK FDNQ_s_n2 VSS nmos w=1u l=100n
XFDNQ_s_o_P0 Q FDNQ_s_n2 VDD VDD pmos w=2u l=100n
XFDNQ_s_o_N0 Q FDNQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fdnq_x1
